### PR TITLE
mutex spec: fixes/refactorings/proof unique_lock ctor/dtor specs

### PR DESCRIPTION
**Pull request by pgiarrusso-sl**

### CODE REVIEW

File: rocq-brick-libstdcpp/proof/mutex/spec/unique_lock.v [hunk 1]
```diff
@@ -295,20 +346,39 @@ Section with_cpp.
...
 
+      cpp.spec "std::__addressof<std::mutex>(std::mutex&)" as __addressof_spec from source with (
+        \arg{mp} "" (Vptr mp)
+        \post[Vptr mp] emp
+      ).
+
+      (** Proofs, TODO move *)
+      Import R_unfold.
+
+      Lemma mutex_ctor_spec_alt_ok : __addressof_spec |-- verify[source] mutex_ctor_spec_alt.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/mutex/spec/unique_lock.v:368]: Spec is misnamed, this isn't the _mutex_ constructor spec.

File: rocq-brick-libstdcpp/proof/mutex/spec/unique_lock.v [hunk 2]
```diff
@@ -295,20 +346,39 @@ Section with_cpp.
...
         apply specify_mono.
-        rewrite /do_unlock.
+        rewrite do_unlock.unlock.
         go.
       Qed.
 
+      cpp.spec "std::__addressof<std::mutex>(std::mutex&)" as __addressof_spec from source with (
+        \arg{mp} "" (Vptr mp)
+        \post[Vptr mp] emp
+      ).
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/mutex/spec/unique_lock.v:363]: This should be upstreamed to something like `builtins/spec.v`

**Comment by pgiarrusso-sl** [comment]
Superseded by #77.
